US07678787B2
10-({2′-[2-(METHYLAMINO)-2-OXOETHYL]-1,1′-BIPHENYL-4-YL}CARBONYL)-N-(PYRIDIN-3-YLMETHYL)-10,11-DIHYDRO-5H-PYRROLO[2,1-C][1,4]BENZODIAZEPINE-3-CARBOXAMIDE
The title compound was prepared in essentially the same manner as Example 68, replacing 4′-{[3-{[(pyridin-3-ylmethyl)amino]carbonyl}-5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-yl]carbonyl}-1,1′-biphenyl-2-carboxylic acid with (4′-{[3-{[(pyridin-3-ylmethyl)amino]carbonyl}-5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-yl]carbonyl}-1,1′-biphenyl-2-yl)acetic acid, Example 36, and dimethylamine with methylamine. Purification by flash chromatography using a solvent gradient of 2 to 8% methanol in dichloromethane gave the title compound (0.149 g, 61%) as an off-white solid.

reactant | (4′-{[3-{[(pyridin-3-ylmethyl)amino]carbonyl}-5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-yl]carbonyl}-1,1′-biphenyl-2-yl)acetic acid | N1=CC(=CC=C1)CNC(=O)C1=CC=C2CN(C3=C(CN21)C=CC=C3)C(=O)C3=CC=C(C=C3)C3=C(C=CC=C3)CC(=O)O | C34H28N4O4
reactant | dimethylamine | CNC | C2H7N
reactant | methylamine | CN | CH5N
product | 10-({2′-[2-(METHYLAMINO)-2-OXOETHYL]-1,1′-BIPHENYL-4-YL}CARBONYL)-N-(PYRIDIN-3-YLMETHYL)-10,11-DIHYDRO-5H-PYRROLO[2,1-C][1,4]BENZODIAZEPINE-3-CARBOXAMIDE | 0.149 g, 61% | CNC(CC1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C(=CC2)C(=O)NCC=2C=NC=CC2)=O | C35H31N5O3
